US05089621
3-Benzyl-3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide (0.75 g) was refluxed in 85% formic acid (10 ml) and 37% formaline (7 ml) for 5 hours. The solvents were removed under reduced pressure and the solid was washed with isopropanol ethylether (2:1) to give 3-benzyl-8-methyl-3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide (0.64 g, yield 82%).

reactant | 3-Benzyl-3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide | 0.75 g | Br.Br.C(C1=CC=CC=C1)N1CC=2CNCC2CC1
reactant | formaline | 7 ml | C=O | CH2O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 3-benzyl-8-methyl-3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide | 0.64 g, yield 82% | Br.Br.C(C1=CC=CC=C1)N1CC=2CN(CC2CC1)C | InChI=1S/C15H20N2.2BrH/c1-16-10-14-7-8-17(12-15(14)11-16)9-13-5-3-2-4-6-13;;/h2-6H,7-12H2,1H3;2*1H
